US07531546B2
To 2-(5-methoxy-2-nitro-phenyl)-malonic acid dimethyl ester and 5% Pd—C (7.0 g) in 1 l of flask, MeOH (490 ml) is added at ambient temperature. The reaction mixture is stirred under H2 at room temperature for 15 h. The catalysts are removed by filtration and MeOH is evaporated down to give crude 5-methoxy-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester.

reactant | 2-(5-methoxy-2-nitro-phenyl)-malonic acid dimethyl ester | COC(C(C(=O)OC)C1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C12H13NO7
catalyst | Pd—C | 7.0 g | [Pd] | Pd
solvent | MeOH | 490 ml | CO | CH4O
product | 5-methoxy-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1C(NC2=CC=C(C=C12)OC)=O | C11H11NO4
